US09399636B2
A vial was charged with 2-[(6-chloro-4-tetrahydropyran-4-yl-2-pyridyl)amino]pyridine-4-carbonitrile (51.1 mg, 0.162 mmol), [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (13.5 mg, 10 mol %), methylboronic acid (20.0 mg, 0.325 mmol), and potassium carbonate (68 mg, 0.49 mmol) and purged under nitrogen before the addition of degassed 1,4-dioxane (1.6 mL) and degassed water (0.5 mL). The mixture was stirred at 100° C. for 19 hr and then diluted with CH2Cl2, filtered through Celite and washed with brine. The organics were dried over MgSO4 and concentrated to dryness. The reaction residue thus obtained was purified by RPLC to afford 2-((6-methyl-4-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile as a white solid (4.1 mg, 9%); ESI-LRMS m/z [M+1]+=295.

reactant | 2-[(6-chloro-4-tetrahydropyran-4-yl-2-pyridyl)amino]pyridine-4-carbonitrile | 0.162 mmol, 51.1 mg | ClC1=CC(=CC(=N1)NC1=NC=CC(=C1)C#N)C1CCOCC1 | C16H15ClN4O
reactant | methylboronic acid | 0.325 mmol, 20.0 mg | CB(O)O | CH5BO2
reactant | potassium carbonate | 0.49 mmol, 68 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 13.5 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
product | 2-((6-methyl-4-(tetrahydro-2H-pyran-4-yl)pyridin-2-yl)amino)isonicotinonitrile | 4.1 mg, 9% | CC1=CC(=CC(=N1)NC=1C=C(C#N)C=CN1)C1CCOCC1 | C17H18N4O
